NONAME (TINA Netlist Editor format)
**************************************
**  This file was created by TINA   **
**         www.tina.com             ** 
**      (c) DesignSoft, Inc.        **          
**     www.designsoftware.com       **
**************************************
.LIB "<TINADIR>\EXAMPLES\SPICE\TSPICE.LIB"
.LIB "<TINADIR>\SPICELIB\Operational Amplifiers.LIB"
.TEMP 27
.AC DEC 20 10 1MEG
.TRAN 2N 1U

.PROBE V([VF1]) I(VAM1)

VAM1        2 VF1 ; Current Arrow
VS1         3 0 5
R2          VF1 0 1K 
R1          3 2 1K 


.END
