INV (TINA Netlist Editor format)
**************************************
**  This file was created by TINA   **
**         www.tina.com             ** 
**      (c) DesignSoft, Inc.        **          
**     www.designsoftware.com       **
**************************************
.LIB "<TINADIR>\EXAMPLES\SPICE\TSPICE.LIB"
.LIB "<TINADIR>\SPICELIB\Operational Amplifiers.LIB"
.TEMP 27
.AC DEC 20 10 1MEG
.TRAN 2N 1U
.DC LIN VPWM3 0 1 10M

.PROBE I(VAM3) I(VAM2) I(VAM1) V(5,1) V(4,1)
.PROBE V(3,1)

VAM3        6 7 ; Current Arrow
VAM2        8 9 ; Current Arrow
VAM1        10 11 ; Current Arrow
VPWM3       15 8 DC 0 AC 1 0
+ PULSE ( 0 1 0  0  0  1e19 1e20 )
VPWM4       17 0 DC 0 AC 1 0
+ PULSE ( 0 1 0  0  0  1e19 1e20 )
VPWM1       18 10 DC 0 AC 1 0
+ PULSE ( 0 1 0  0  0  1e19 1e20 )
VPWM2       19 0 DC 0 AC 1 0
+ PULSE ( 0 1 0  0  0  1e19 1e20 )
VPWM5       20 6 DC 0 AC 1 0
+ PULSE ( 0 1 0  0  0  1e19 1e20 )
VPWM6       22 0 DC 0 AC 1 0
+ PULSE ( 0 1 0  0  0  1e19 1e20 )
VS1         21 0 5
R12         1 0 1MEG 
R11         2 0 1MEG 
R10         3 2 1MEG 
R9          4 2 1MEG 
R8          5 2 1MEG 
R7          5 1 10 
R6          4 1 10 
R5          3 1 10 
C5          5 2 5U 
C4          4 2 5U 
C3          3 2 5U 
L3          12 5 1M IC=0 
R4          7 12 50M 
L2          13 4 1M IC=0 
R2          9 13 50M 
L1          14 3 1M IC=0 
R1          11 14 50M 
MT6         16 15 8 8  ME_2N6755_N_1 NRD=0 NRS=0 
MT5         8 17 0 0  ME_2N6755_N_1 NRD=0 NRS=0 
MT4         16 18 10 10  ME_2N6755_N_1 NRD=0 NRS=0 
MT3         10 19 0 0  ME_2N6755_N_1 NRD=0 NRS=0 
MT2         16 20 6 6  ME_2N6755_N_1 NRD=0 NRS=0 
R3          21 16 50M 
C2          16 0 100U 
MT1         6 22 0 0  ME_2N6755_N_1 NRD=0 NRS=0 
C1          16 0 100U 

.MODEL ME_2N6755_N_1 NMOS( LEVEL=3 VTO=3.128 KP=21.14U PHI=600M GAMMA=0 TOX=100N 
+      UO=600 VMAX=0 DELTA=0 THETA=0 ETA=0 
+      L=2U W=1.1 RD=64.68M RS=120.7M RG=5.839 
+      RB=0 RDS=600K IS=44.14F N=1 PB=800M 
+      CBD=1.261N CBS=0 MJ=500M TT=370N CGSO=725.6P 
+      CGDO=310.6P CGBO=0 KF=0 AF=1 )

.END
