SINV (TINA Netlist Editor format)
**************************************
**  This file was created by TINA   **
**         www.tina.com             ** 
**      (c) DesignSoft, Inc.        **          
**     www.designsoftware.com       **
**************************************
.LIB "<TINADIR>\EXAMPLES\SPICE\TSPICE.LIB"
.LIB "<TINADIR>\SPICELIB\Operational Amplifiers.LIB"
.TEMP 27
.AC DEC 20 10 1MEG
.TRAN 2N 1U
.DC LIN VPWM1 0 1 10M

.PROBE I(VAM1) V(2,1)

VPWM1       3 4 DC 0 AC 1 0
+ PULSE ( 0 1 0  0  0  1e19 1e20 )
VPWM2       6 0 DC 0 AC 1 0
+ PULSE ( 0 1 0  0  0  1e19 1e20 )
VPWM4       7 1 DC 0 AC 1 0
+ PULSE ( 0 1 0  0  0  1e19 1e20 )
VAM1        4 8 ; Current Arrow
VPWM3       10 0 DC 0 AC 1 0
+ PULSE ( 0 1 0  0  0  1e19 1e20 )
VS1         9 0 5
R2          1 2 10 
C3          2 1 5U 
MT4         5 3 4 4  ME_2N6755_N_1 NRD=0 NRS=0 
MT3         4 6 0 0  ME_2N6755_N_1 NRD=0 NRS=0 
MT2         5 7 1 1  ME_2N6755_N_1 NRD=0 NRS=0 
R3          9 5 50M 
C2          5 0 100U 
MT1         1 10 0 0  ME_2N6755_N_1 NRD=0 NRS=0 
C1          5 0 100U 
L1          8 2 1M IC=0 

.MODEL ME_2N6755_N_1 NMOS( LEVEL=3 VTO=3.128 KP=21.14U PHI=600M GAMMA=0 TOX=100N 
+      UO=600 VMAX=0 DELTA=0 THETA=0 ETA=0 
+      L=2U W=1.1 RD=64.68M RS=120.7M RG=5.839 
+      RB=0 RDS=600K IS=44.14F N=1 PB=800M 
+      CBD=1.261N CBS=0 MJ=500M TT=370N CGSO=725.6P 
+      CGDO=310.6P CGBO=0 KF=0 AF=1 )

.END
